US07776864B2
Step 4: 4-(6-phenyl[1,2,4]triazolo[1,5-a]pyrimidin-5-yl)benzaldehyde
To a mixture of 130 mg 5-chloro-6-phenyl[1,2,4]triazolo[1,5-a]pyrimidine and 93 mg 4-formylphenylboronic acid in 5 ml 1,2-dimethoxyethane are added 1.2 ml of a 10% w/w sodium carbonate solution and 65 mg tetrakis(triphenylphosphine) palladium(0) and the resulting mixture is heated to 90° C. under an inert gas atmosphere for 18 h. The work up is performed by diluting the reaction mixture with water and dichloromethane, separating the phases and extraction of the aqueous phase with dichloromethane. The combined organic layers are dried over sodium sulphate, evaporated and the residue suspended in methanol. The crystalline product is isolated by filtration yielding the desired product. The filtrate is evaporated to dryness, dissolved in ethyl acetate and additional product precipitated by the addition of petrolether.

reactant | 5-chloro-6-phenyl[1,2,4]triazolo[1,5-a]pyrimidine | 130 mg | ClC1=NC=2N(C=C1C1=CC=CC=C1)N=CN2 | C11H7ClN4
reactant | 4-formylphenylboronic acid | 93 mg | C(=O)C1=CC=C(C=C1)B(O)O | C7H7BO3
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,2-dimethoxyethane | 5 ml | COCCOC | C4H10O2
solvent | water | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | tetrakis(triphenylphosphine) palladium(0) | 65 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 4-(6-phenyl[1,2,4]triazolo[1,5-a]pyrimidin-5-yl)benzaldehyde | C1(=CC=CC=C1)C=1C(=NC=2N(C1)N=CN2)C2=CC=C(C=O)C=C2 | C18H12N4O
